US06800642B2
2,3-Dihydro[1,4]dioxino[2,3-e][2,1]benzisoxazol-2-ylmethyl 4-methylbenzenesulfonate
19.7 g (87.4 mmole) of stannous chloride dihydrate was added to a solution of 6.62 g (17.5 mmole) of (2R)-(8-formyl-7-nitro-2,3-dihydro-1,4-benzodioxin-2-yl)methyl 4-methylbenzenesulfonate in 400 mL of 1:1 tetrahydrofuran/methanol followed by the addition of 23.8 g (0.17 mole) of sodium acetate trihydrate. The mixture was stirred under nitrogen for a period of 48 hours. The solvent was removed in vacuo and replaced with an equal amount of methylene chloride and the solution was washed with 400 mL portions of saturated aqueous sodium bicarbonate and saturated brine and dried over magnesium sulfate. After the solution was filtered and concentrated in vacuum, the crude oil obtained was column chromatographed on silica gel with methylene chloride as eluant and the product fractions were combined and evaporated in vacuum to give 4.47 g (71%) of the (R)-enantiomer of the title compound as a light yellow solid, m.p.109-110° C.

reactant | (2R)-(8-formyl-7-nitro-2,3-dihydro-1,4-benzodioxin-2-yl)methyl 4-methylbenzenesulfonate | 17.5 mmole, 6.62 g | CC1=CC=C(C=C1)S(=O)(=O)OC[C@H]1COC2=C(O1)C(=C(C=C2)[N+](=O)[O-])C=O | C17H15NO8S
reactant | sodium acetate trihydrate | 0.17 mole, 23.8 g | O.O.O.C(C)(=O)[O-].[Na+]
solvent | tetrahydrofuran methanol | 400 mL | O1CCCC1.CO
product | 2,3-Dihydro[1,4]dioxino[2,3-e][2,1]benzisoxazol-2-ylmethyl 4-methylbenzenesulfonate | CC1=CC=C(C=C1)S(=O)(=O)OCC1COC=2C=CC=3C(=CON3)C2O1 | C17H15NO6S
